US07534802B2
N-(4-Chlorophenyl)-2-(4-pyridylmethylthio)pyridine-3-carboxamide (Compound No. 1-1)
N,N-Diisopropylethylamine (1.6 mL,8.9 mmol) and o-(7- azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.6 g, 4.3 mmol) were added to a solution of 2-(4-pyridylmethylthio)pyridine-3-carboxylic acid (1.0 g, 4.1 mmol, Reference compound No. 1-1) and 4-chloroaniline (0.54 g, 4.3 mmol) in N,N-dimethylformamide (20 mL), then the mixture was stirred for 3 hours. A saturated aqueous sodium hydrogencarbonate solution (150 mL) was added to the reaction mixture, then the whole was extracted with ethyl acetate (150 mL). The ethyl acetate layer was washed with a saturated aqueous sodium hydrogencarbonate solution (150 mL) twice and saturated brine (150 mL) twice, and was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The precipitated solid was filtered off, was washed with diethyl ether:ethyl acetate (10:1), and was dried under reduced pressure to give 1.3 g of the target compound as a white solid. (Yield 91%)

reactant | N,N-Diisopropylethylamine | 8.9 mmol, 1.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | o-(7- azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 4.3 mmol, 1.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(4-pyridylmethylthio)pyridine-3-carboxylic acid | N1=CC=C(C=C1)CSC1=NC=CC=C1C(=O)O | C12H10N2O2S
reactant | 4-chloroaniline | 4.3 mmol, 0.54 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | sodium hydrogencarbonate | 150 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-(4-Chlorophenyl)-2-(4-pyridylmethylthio)pyridine-3-carboxamide | 1.3 g, Yield 91% | ClC1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)SCC1=CC=NC=C1 | C18H14ClN3OS
